US07112638B2
Synthesis of 3-methyl-2-phenylthiophene
The 4-methyl-5-phenyl-2-thiophenecarboxylic acid (127 g, 0.58 mol) prepared as described above was heated to 220–230° C. until the evolution of carbon dioxide ceased. The product was collected and distilled, b.p. 120° C./10 torr. Yield 30.3 g (30%).

reactant | 4-methyl-5-phenyl-2-thiophenecarboxylic acid | 0.58 mol, 127 g | CC=1C=C(SC1C1=CC=CC=C1)C(=O)O | C12H10O2S
reactant | carbon dioxide | C(=O)=O | CO2
product | 3-methyl-2-phenylthiophene | CC1=C(SC=C1)C1=CC=CC=C1 | C11H10S
